US06136848
2-Amino-4-chlorophenol (50 g, 0.35 mol) was dissolved in 500 ml of 2.5 N hydrochloric acid, to which an aqueous solution of 25.25 g (0.37 mol) of sodium nitrite in 50 ml of water was gradually added dropwise with cooling at 0° C. After stirring for 30 minutes, the reaction mixture was confirmed to show "positive" in an iodostarch reaction and an aqueous solution of 70 g (0.42 mol) of sodium iodide in 100 ml of water was added slowly. The temperature of the reaction mixture was allowed to rise to room temperature, at which the reaction mixture was stirred overnight and then extracted with ethyl acetate. The ethyl acetate layer was concentrated, whereby 89.7 g of 4-chloro-2-iodophenol were obtained as a purple solid (yield: 99%).

reactant | 2-Amino-4-chlorophenol | 0.35 mol, 50 g | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | sodium nitrite | 0.37 mol, 25.25 g | N(=O)[O-].[Na+]
reactant | sodium iodide | 0.42 mol, 70 g | [I-].[Na+]
solvent | hydrochloric acid | 2.5 N, 500 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 4-chloro-2-iodophenol | 89.7 g | ClC1=CC(=C(C=C1)O)I | C6H4ClIO
